US06727249B2
(1R*,2R*,5S*,6S*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octane
Sodium hydride (60% in oil, 100 mg, 2.5 mmol) was washed twice with iso-hexane and added as a suspension in THF (3 ml) to a stirred mixture of (1R*,2R*,5S*,6S*)-8-benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 38; 512 mg, 1.3 mmol), 3,5-bis(trifluoromethyl)benzyl bromide (0.5 ml, 2.7 mmol), 18-crown-6 (360 mg, 1.37 mmol) in THF (5 ml) at room temperature. The reaction mixture was stirred for 40 hours, quenched with saturated aqueous NH4Cl and extracted into a 1:1 mixture of iso-hexane:diethyl ether. The combined organic extracts were washed with water, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:diethyl ether) to give the title compound (494 mg, 61%).

reactant | Sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | (1R*,2R*,5S*,6S*)-8-benzyl-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 1.3 mmol, 512 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@](C2)(F)C(=O)OCC)O)C2=CC=CC=C2 | C23H26FNO3
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 2.7 mmol, 0.5 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | 18-crown-6 | 1.37 mmol, 360 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | iso-hexane | CCCC(C)C | C6H14
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (1R*,2R*,5S*,6S*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-ethoxycarbonyl-6-fluoro-1-phenyl-8-azabicyclo[3.2.1]octane | 494 mg, 61% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@](C2)(F)C(=O)OCC)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C32H30F7NO3
